US04064135
This example illustrates methods of converting the compounds of formula E into the compounds of formula C. In this example 1 g. of 5-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)-methylene-N-t-butyl-2,2-dimethyloxazolidine is dissolved in 50 ml. of ethyl acetate and this solution is treated with aqueous 5% sodium hydroxide (20 ml.) at 20° C. The mixture is allowed to stand for 0.5 hours, washed three times with water, dried over magnesium sulfate and then evaporated to dryness affording 1-t-butyl-3-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy-propan-2-ol.

reactant | 5-(5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy)-methylene-N-t-butyl-2,2-dimethyloxazolidine | C12CCC(CC1)C2CCNC(=O)C2=CN=C(S2)OC2C(N(C(O2)(C)C)C(C)(C)C)=C | C23H35N3O3S
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-(bicyclo[2.2.1]hept-7-yl)ethylaminocarbonyl]thiazol-2-yloxy-propan-2-ol | C12CCC(CC1)C2CCNC(=O)C2=CN=C(S2)OCC(C)O | C16H24N2O3S
